US08835648B2
2-(5-Bromo-2-chloro-phenyl)-5-fluoro-benzoimidazole-1-carboxylic acid tert-butyl ester
Method 3—Step c To a flask with 2-(5-Bromo-2-chloro-phenyl)-5-fluoro-1H-benzoimidazole (6.00 g, 18.46 mmol), 4-dimethylaminopyridine (DMAP) (0.23 g, 1.85 mmol), di-tert-butyl dicarbonate (Boc2O) (5.23 g, 24.00 mmol) and dichloromethane (90 mL) were added. The reaction mixture was stirred at room temperature overnight, solvent was removed under reduced pressure and the crude precipitated from a mixture of cyclohexane:AcOEt/10:1 to get 4.60 g of the title compound (59%).

reactant | 2-(5-Bromo-2-chloro-phenyl)-5-fluoro-1H-benzoimidazole | 18.46 mmol, 6.00 g | BrC=1C=CC(=C(C1)C1=NC2=C(N1)C=CC(=C2)F)Cl | C13H7BrClFN2
reactant | di-tert-butyl dicarbonate | 24.00 mmol, 5.23 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 1.85 mmol, 0.23 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
product | 2-(5-Bromo-2-chloro-phenyl)-5-fluoro-benzoimidazole-1-carboxylic acid tert-butyl ester | 4.60 g, 59% | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2)F)C2=C(C=CC(=C2)Br)Cl | C18H15BrClFN2O2
